US07696347B2
(3A-1) Tributyl-ethoxymethyl-tin
To a mixture of diisopropylamine (2.1 ml, 15 mmol) and tetrahydrofuran (30 ml) was added dropwise n-butyllithium (2.4M n-hexane solution, 5.0 ml, 12 mmol) at −78° C. (external temperature). Then, the reaction mixture was stirred for 30 minutes. To the mixture was added dropwise tributyltin hydride (3.3 ml, 12 mmol) at −78° C. (external temperature). Then, the reaction mixture was stirred at 0° C. (external temperature) for 40 minutes. The reaction mixture was cooled to −78° C. (external temperature), and ethoxymethyl chloride (1.1 ml, 12 mmol) was added dropwise to the reaction mixture. After the reaction mixture was raised to room temperature, to the reaction mixture were added diethyl ether and an aqueous ammonium chloride solution, and the organic layer was separated. The organic layer was washed with an aqueous saturated sodium chloride solution, and the solvent was distilled off under reduced pressure. The residue was purified by neutral silica gel column chromatography (heptane:diethyl ether=30:1) to obtain the title compound (2.8 g, 7.9 mmol, 66%).

reactant | diisopropylamine | 15 mmol, 2.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 12 mmol, 2.4M, 5.0 ml | C(CCC)[Li]
reactant | tributyltin hydride | 12 mmol, 3.3 ml | C(CCC)[SnH](CCCC)CCCC
reactant | ethoxymethyl chloride | 12 mmol, 1.1 ml | C(C)OCCl | C3H7ClO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Tributyl-ethoxymethyl-tin | 7.9 mmol, 2.8 g, 66% | C(CCC)[Sn](COCC)(CCCC)CCCC | InChI=1S/3C4H9.C3H7O.Sn/c4*1-3-4-2;/h3*1,3-4H2,2H3;2-3H2,1H3;
